US04540695
To a solution of 9-acetyl-9-amino-6,11-dihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione (1.34 g) in anhydrous methylene chloride (30 ml), trifluoroacetic anhydride (4.0 g) was dropwise added thereto while cooling with ice water. Stirring was continued for 3.5 hours. The precipitated crystals were collected by filtration to give 9-acetyl-9-trifluoroacetylamino-6,11-dihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione (1.6 g). M.P., 252°-256° C.

reactant | 9-acetyl-9-amino-6,11-dihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione | 1.34 g | C(C)(=O)C1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)O)=O)=O)O)N | C20H17NO5
reactant | trifluoroacetic anhydride | 4.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 9-acetyl-9-trifluoroacetylamino-6,11-dihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione | 1.6 g | C(C)(=O)C1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)O)=O)=O)O)NC(C(F)(F)F)=O | C22H16F3NO6
